US08486970B2
To a solution of 566 mg of (3RS,4RS)-3-(2,4-dichlorophenyl)-N-[(2,2-dimethyl-4H-[1,3]dioxino[5,4-b]pyridin-6-yl)methoxy]-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide in 11.3 ml of THF was added 3.2 ml of 1 M hydrochloric acid, followed by stirring at room temperature for 2 hours. 1.6 ml of 1 M hydrochloric acid was further added, followed by stirring for 2 days. The solution was neutralized with a saturated aqueous sodium hydrogen carbonate solution and then extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform-methanol) and recrystallized from ethyl acetate to obtain 196 mg of rel-(3RS,4RS)-3-(2,4-dichlorophenyl)-N-{[5-hydroxy-6-(hydroxymethyl)pyridin-2-yl]methoxy}-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide as a white crystal.

reactant | (3RS,4RS)-3-(2,4-dichlorophenyl)-N-[(2,2-dimethyl-4H-[1,3]dioxino[5,4-b]pyridin-6-yl)methoxy]-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 566 mg | ClC1=C(C=CC(=C1)Cl)C1N(C(C2=CC=CC=C2C1C(=O)NOCC1=CC=C2C(=N1)COC(O2)(C)C)=O)C2C(CCCC2)NS(=O)(=O)C | C33H36Cl2N4O7S
reactant | hydrochloric acid | 1 M, 3.2 ml | Cl | ClH
reactant | hydrochloric acid | 1 M, 1.6 ml | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF | 11.3 ml | C1CCOC1 | C4H8O
product | rel-(3RS,4RS)-3-(2,4-dichlorophenyl)-N-{[5-hydroxy-6-(hydroxymethyl)pyridin-2-yl]methoxy}-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 196 mg | ClC1=C(C=CC(=C1)Cl)C1N(C(C2=CC=CC=C2C1C(=O)NOCC1=NC(=C(C=C1)O)CO)=O)C1C(CCCC1)NS(=O)(=O)C | C30H32Cl2N4O7S
